US04703107
GlcA-Ile-Phe-OH
GlcA-Ile-Phe-OBzl (1.04 g, 1.9 mmol) was hydrogenolyzed in presence of palladium/activated charcoal (10% Pd) (200 mg) in DMF-water (9:1, v/v) solution for 5 h. After removal of the catalyst by filtration the solution was evaporated to dryness and the product was recovered by lyophilization from water with 98% yield (0.85 g); mp 173°-174° C.; [α]54625 =+3,36 (c=1, MeOH); Rf(A) =0.15.

reactant | GlcA Ile-Phe-OBzl | 1.9 mmol, 1.04 g | OC1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)C(O)=O.N[C@@H]([C@@H](C)CC)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1
solvent | DMF water | CN(C)C=O.O
catalyst | palladium | 200 mg | [Pd] | Pd
product | GlcA Ile-Phe-OH | 98% yield | OC1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)C(O)=O.N[C@@H]([C@@H](C)CC)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | InChI=1S/C15H22N2O3.C6H10O7/c1-3-10(2)13(16)14(18)17-12(15(19)20)9-11-7-5-4-6-8-11;7-1-2(8)4(5(10)11)13-6(12)3(1)9/h4-8,10,12-13H,3,9,16H2,1-2H3,(H,17,18)(H,19,20);1-4,6-9,12H,(H,10,11)/t10-,12-,13-;1-,2-,3+,4-,6?/m00/s1
